US05684017
2-(4-Methoxybenzoyl)-chromone
Combine chromone-2-carboxylic acid chloride (10 mmol), and aluminum chloride (30 mmol) in anisole (70 mL). Heat at reflux for 24 hours. Pour the reaction mixture into ice-water (150 mL). Extract twice with dichloromethane. Dry the separated organic layers over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel to give the title compound.

reactant | chromone-2-carboxylic acid chloride | 10 mmol | O1C(=CC(C2=CC=CC=C12)=O)C(=O)Cl | C10H5ClO3
reactant | aluminum chloride | 30 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 70 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2-(4-Methoxybenzoyl)-chromone | COC1=CC=C(C(=O)C=2OC3=CC=CC=C3C(C2)=O)C=C1 | C17H12O4
